US05506256
A) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-{1-hydroxy-2-[(S)-p-tolylsulfinyl]ethyl}pyrrolidine
To diisopropylamine (0.26 ml) in THF (6 ml) was dropwise added 1.62M n-butyllithium-hexane solution (1.12 ml) at -78° C., and the mixture was stirred at 0° C. for 0.5 hour. The reaction mixture was cooled to -30° C., dropwise added with (S)-(-)-methyl p-tolyl sulfoxide (255 mg) in THF (6 ml), and stirred at 0° C. for 0.5 hour. The reaction mixture was cooled to -78° C. and dropwise added with known N-benzyloxycarbonyl-L-prolyl-L-prolinal (300 mg) in THF (6 ml). After stirring for 0.5 hour, an aqueous solution of saturated ammonium chloride was added thereto, followed by stirring at room temperature for 10 minutes. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous solution of sodium bicarbonate and saturated brine order, dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (eluate; chloroform-methanol) to give 388 mg of the title compound.

reactant | diisopropylamine | 0.26 ml | C(C)(C)NC(C)C | C6H15N
reactant | (S)-(-)-methyl p-tolyl sulfoxide | 255 mg | C1(=CC=C(C=C1)[S@@](=O)C)C | C8H10OS
reactant | N-benzyloxycarbonyl-L-prolyl-L-prolinal | 300 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@H](C=O)CCC2)CCC1 | C18H22N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-{1-hydroxy-2-[(S)-p-tolylsulfinyl]ethyl}pyrrolidine | 388 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(C[S@](=O)C2=CC=C(C=C2)C)O)CCC1 | C26H32N2O5S
